US09314023B2
At 0° C., to a mixture of 2,5-dimethylphenol 20 g and chloroform 150 ml was added acetyl chloride 15 g and triethylamine 49 g. The resulting mixture was raised to room temperature and was stirred for four hours. Then, the reaction mixture was extracted with chloroform. The organic layer was washed with water and was dried over anhydrous magnesium sulfate, and was then concentrated under reduced pressure. The resulting residue was subjected to a silica gel column chromatography to give acetic acid 2,5-dimethylphenyl ester 24 g.

reactant | 2,5-dimethylphenol | 20 g | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetyl chloride | 15 g | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | 49 g | C(C)N(CC)CC | C6H15N
product | acetic acid 2,5-dimethylphenyl ester | 24 g | CC1=C(C=C(C=C1)C)OC(C)=O | C10H12O2
